US08609680B2
Preparation of 2-[(1S)-5-Pyrimidin-2-yl-2,3-dihydro-1H-inden-1-yl]-2,7-diazaspiro[3.5]nonane dihydrochloride (3-1e)
To a round-bottomed flask containing tert-butyl 2-[(1R)-5-pyrimidin-2-yl-2,3-dihydro-1H-inden-1-yl]-2,7-diazaspiro[3.5]nonane-7-carboxylate (3-1d, 177 mg, 0.42 mmol) was added 5 mL of 4N HCl in dioxane. The mixture was stirred for 3 hours at room temperature and 2 mL of methanol was added to solubilize the reaction. After stirring an additional hour, the volatiles were removed under reduced pressure to give the title compound as a brown solid (190 mg, 100%). MS (APCI) 321.4 (M+H)+. 1H NMR (CD3OD) δ 2.14-2.22 (m, 5H), 2.58 (br s, 1H), 3.11 (d, 1H), 3.19-3.23 (m, 5H), 4.12 (d, 1H), 4.21 (s, 2H), 4.45-4.47 (m, 1H), 5.07-5.08 (m, 1H), 7.51 (t, 1H), 7.74 (s, 1H), 8.34-8.40 (m, 2H), 8.94 (d, 2H).

reactant | tert-butyl 2-[(1R)-5-pyrimidin-2-yl-2,3-dihydro-1H-inden-1-yl]-2,7-diazaspiro[3.5]nonane-7-carboxylate | 0.42 mmol, 177 mg | N1=C(N=CC=C1)C=1C=C2CC[C@H](C2=CC1)N1CC2(C1)CCN(CC2)C(=O)OC(C)(C)C | C25H32N4O2
reactant | HCl | 4N, 5 mL | Cl | ClH
reactant | methanol | 2 mL | CO | CH4O
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 2-[(1S)-5-Pyrimidin-2-yl-2,3-dihydro-1H-inden-1-yl]-2,7-diazaspiro[3.5]nonane dihydrochloride | 190 mg, 100% | Cl.Cl.N1=C(N=CC=C1)C=1C=C2CC[C@@H](C2=CC1)N1CC2(C1)CCNCC2 | InChI=1S/C20H24N4.2ClH/c1-8-22-19(23-9-1)16-2-4-17-15(12-16)3-5-18(17)24-13-20(14-24)6-10-21-11-7-20;;/h1-2,4,8-9,12,18,21H,3,5-7,10-11,13-14H2;2*1H/t18-;;/m0../s1
